US07943619B2
6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid isopropylamide
As described for example 67e, 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (200 mg, 0.58 mmol) was converted, instead of 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid methyl ester, using isopropylamine instead of aminomethylcyclopropane, to the title compound (170 mg, 82%) which was obtained as a white solid. MS: m/e=357.2 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 0.58 mmol, 200 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1)C1=CC=C(C=C1)F | C17H14FN3O4
reactant | 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid methyl ester | COC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=CC=C1 | C17H16N4O3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid isopropylamide | 170 mg, 82% | C(C)(C)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1)C1=CC=C(C=C1)F | C18H17FN4O3
